US08791134B2
Diethyl 1-nitrosocyclohexyl phosphate was prepared from cyclohexanone oxime, lead tetraacetate and diethyl phosphate using conditions of General Method 3. 1H NMR (400 MHz, benzene-d6) δ 3.90-4.15 (3H, m), 1.24-1.78 (10H, m), 0.88-1.10 (7H, m)

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | diethyl phosphate | P(=O)(OCC)(OCC)[O-]
product | Diethyl 1-nitrosocyclohexyl phosphate | P(=O)(OCC)(OCC)OC1(CCCCC1)N=O | C10H20NO5P
